US04382143
Preparation of ethyl 5-hexadecylamino-2-thiophenecarboxylate
To 1.1 g. of ethyl 5-hexadecanamido-2-thiophenecarboxylate is added 5 ml. 1 M borane in tetrahydrofuran. The reaction mixture is refluxed for 1 hour. After cooling, the reaction mixture is poured into 50 ml. of 1 N hydrochloric acid. The solid is collected and then recrystallized from both carbon tetrachloride and ethanol to yield the product.

reactant | ethyl 5-hexadecanamido-2-thiophenecarboxylate | C(CCCCCCCCCCCCCCC)(=O)NC1=CC=C(S1)C(=O)OCC | C23H39NO3S
reactant | borane | 1 M | B | BH3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 5-hexadecylamino-2-thiophenecarboxylate | C(CCCCCCCCCCCCCCC)NC1=CC=C(S1)C(=O)OCC | C23H41NO2S
